US07842685B2
A slurry of CsCO3 (0.420 g, 1.29 mmol) and acetamidomalonic acid diethyl ester (0.560 g, 2.58 mmol) in 6 mL DMSO under argon was allowed to stir for 2 h. 2-(2-Fluoro-4-vinylphenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine (0.400 g, 1.07 mmol) was added as a solid and the reaction mixture sealed and heated to 35° C. for 3 h. The clear, red reaction mixture was quenched with ice and 1N aq. HCl until acidic, and partitioned between water and EA. The organic layer was washed with water, brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The material was treated with DCM and passed through a Redi-Sep® pre-packed silica gel column (40 g) using 0-60% EtOAc/hexane. The product-containing fractions were concentrated to afford diethyl 2-acetamido-2-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)ethyl)malonate as a white solid. MS (ESI) m/z: calculated: 589.2; Observed: 590.1 (M++1).

reactant | acetamidomalonic acid diethyl ester | 2.58 mmol, 0.560 g | C(C)OC(C(C(=O)OCC)NC(C)=O)=O | C9H15NO5
reactant | 2-(2-Fluoro-4-vinylphenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | 1.07 mmol, 0.400 g | FC1=C(C=CC(=C1)C=C)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C23H17FN2S
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | diethyl 2-acetamido-2-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)ethyl)malonate | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CCC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F | C32H32FN3O5S
